US04045446
Preparation of Benzothiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (1200 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2-Aminobenzothiazole (100.0 l grams; 0.67 mole) is then added with stirring. After the addition is completed, the reaction mixture is heated at reflux for a period of about one hour. After this time the reaction mixture is evaporated to dryness to yield the desired product benzothiazol-2-yl isocyanate dimer as a yellow solid having a melting point of 250° to 252° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-Aminobenzothiazole | 0.67 mole, 100.0 l | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | ethyl acetate | 1200 ml | C(C)(=O)OCC | C4H8O2
product | benzothiazol-2-yl isocyanate | S1C(=NC2=C1C=CC=C2)N=C=O | C8H4N2OS
